US09126950B2
To a solution of 2-chloro-5-fluoro-N-(3-nitrophenyl)pyrimidin-4-amine (0.400 g) and 4-[(2-methoxyethoxy)methoxy]aniline (0.458 g), in ethanol (20 mL), was added acetic acid (4.65 mg). The reaction mixture was heated to reflux for 24 hr. Completion of reaction was monitored by TLC using hexane:ethyl acetate (8:2) as mobile phase. After completion of the reaction, ethanol was removed under reduced pressure at 40° C. To the residue water (25 mL) was added and mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and distilled under reduced pressure to give 0.4 g of 5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)-N4-(3-nitrophenyl)pyrimidine-2,4-diamine as a solid.

reactant | 2-chloro-5-fluoro-N-(3-nitrophenyl)pyrimidin-4-amine | 0.400 g | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)[N+](=O)[O-])F | C10H6ClFN4O2
reactant | 4-[(2-methoxyethoxy)methoxy]aniline | 0.458 g | COCCOCOC1=CC=C(N)C=C1 | C10H15NO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | acetic acid | 4.65 mg | C(C)(=O)O | C2H4O2
product | 5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)-N4-(3-nitrophenyl)pyrimidine-2,4-diamine | 0.4 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCOCCOC)NC1=CC(=CC=C1)[N+](=O)[O-] | C20H20FN5O5
